US07259183B2
A solution of 224 mg of 2,2,2-trifluoro-N-[2-(4-methyl-thiazol-2-yl)-ethyl]-acetamide (0.94 mmol) in 4 ml DMF was added to a suspension of 45 mg of sodium hydride (60% in mineral oil) in 4 ml DMF at 0° C. After 30 min 0.173 ml 4-tert-butyl-benzylbromide were added and the reaction mixture was allowed to warm to rt. Stirring was continued for 3 h at ambient temperature, then water was added and the mixture was extracted with EtOAc. The organic layers were dried over magnesium sulfate, filtrated and the solvent was evaporated. Chromatography (silica gel; cyclohexane/EtOAc 4:1) yielded 265 mg (73%) of N-(4-tert-butyl-benzyl)-2,2,2-trifluoro-N-[2-(4-methyl-thiazol-2-yl)-ethyl]-acetamide as a light yellow liquid. 1H NMR (CDCl3, 300 MHz): δ 1.30 (s) and 1.31 (s, 9H), 2.42 (s, 3H), 3.23 (q, J=7 Hz, 2H), 3.70 (t, J=7 Hz) and 3.79 (t, J=7 Hz, 2H), 4.48(s) and 4.62 (s, 2H), 6.77 (m, 1H), 7.10 (d, J=8 Hz) and 7.17 (d, J=8 Hz, 2H), 7.36 (d, J=8 Hz) and 7.38 (d, J=8 Hz, 2H); MS (ISP) 385.4 (M+H)+.

reactant | 2,2,2-trifluoro-N-[2-(4-methyl-thiazol-2-yl)-ethyl]-acetamide | 0.94 mmol, 224 mg | FC(C(=O)NCCC=1SC=C(N1)C)(F)F | C8H9F3N2OS
reactant | sodium hydride | 45 mg | [H-].[Na+]
reactant | 4-tert-butyl-benzylbromide | 0.173 ml | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-(4-tert-butyl-benzyl)-2,2,2-trifluoro-N-[2-(4-methyl-thiazol-2-yl)-ethyl]-acetamide | 265 mg, 73% | C(C)(C)(C)C1=CC=C(CN(C(C(F)(F)F)=O)CCC=2SC=C(N2)C)C=C1 | C19H23F3N2OS
